US07317125B2
Preparation of (2-bromo-4-fluoro-phenoxy)-acetic acid-t-butyl ester
A solution of 2-bromo-4-fluorophenol (2.15 g, 11.25 mmol) in DMF (60 ml) was treated with potassium carbonate (7.77 g, 96.25 mmol) and t-butyl bromoacetate (1.99 ml, 13.5 mmol) at 60° C. for 12 hours. The reaction mixture was filtered through celite, and partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 5%-10% ethyl acetate/hexanes gradient to give the product as colorless oil (2.86 g, 83%).

reactant | 2-bromo-4-fluorophenol | 11.25 mmol, 2.15 g | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | potassium carbonate | 96.25 mmol, 7.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl bromoacetate | 13.5 mmol, 1.99 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | (2-bromo-4-fluoro-phenoxy)-acetic acid-t-butyl ester | 2.86 g, 83% | C(C)(C)(C)OC(COC1=C(C=C(C=C1)F)Br)=O | C12H14BrFO3
